US06689922B1
5-{2-[3-(7-Hydroxy-7-methyloctyl)phenyl]vinyl}benzene-1,3-diol
In a manner similar to Example 25(d), by reacting 0.06 ml of concentrated sulphuric acid with 1.15 g (2.21 mmol) of 8-(3-{2-[3,5-bis(tetrahydropyran-2-yloxy)phenyl]vinyl}phenyl)-2-methyloctan-2-ol in 20 ml of THF and 10 ml of water, after purification on a silica column (ethyl acetate 40-heptane 60), pinkish crystals (m=331 mg; Y=42%) are obtained.

reactant | sulphuric acid | 0.06 ml | S(O)(O)(=O)=O | H2O4S
reactant | 8-(3-{2-[3,5-bis(tetrahydropyran-2-yloxy)phenyl]vinyl}phenyl)-2-methyloctan-2-ol | 2.21 mmol, 1.15 g | O1C(CCCC1)OC=1C=C(C=C(C1)OC1OCCCC1)C=CC=1C=C(C=CC1)CCCCCCC(C)(O)C | C33H46O5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 5-{2-[3-(7-Hydroxy-7-methyloctyl)phenyl]vinyl}benzene-1,3-diol | OC(CCCCCCC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C23H30O3
